US04831041
A solution of 3-(2-acetoxymethylbenzyloxy)-2nitropyridine (7.8 g) in methanol (39 ml) and 1N aqueous sodium hydroxide (23 ml) was stirred at room temperature for 0.5 hours. To the mixture was added water (50 ml) and the precipitates were collected by filtration to give 3-(2-hydroxymethylbenzyloxy)-2-nitropyridine (4.18 g).

reactant | 3-(2-acetoxymethylbenzyloxy)-2nitropyridine | 7.8 g | C(C)(=O)OCC1=C(COC=2C(=NC=CC2)[N+](=O)[O-])C=CC=C1 | C15H14N2O5
reactant | water | 50 ml | O | H2O
solvent | methanol | 39 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 23 ml | [OH-].[Na+]
product | 3-(2-hydroxymethylbenzyloxy)-2-nitropyridine | 4.18 g | OCC1=C(COC=2C(=NC=CC2)[N+](=O)[O-])C=CC=C1 | C13H12N2O4
